US06262082B1
N-(4-Aminophenyl)-2-hydroxybenzamide
To a solution of 2-(4-aminophenylcarbamoyl)phenyl acetate (580 mg) in methanol (10 mL) is added saturated sodium bicarbonate (2 mL) and water (3 mL). The mixture is heated at 80° C. for 30 minutes, then poured into half-saturated aqueous sodium chloride and extracted with ethyl acetate. The ethyl acetate solution is dried over anhydrous sodium sulfate and concentrated under reduced pressure to give an oil which is then triturated with diethyl ether to provide the desired product as a white solid.

reactant | 2-(4-aminophenylcarbamoyl)phenyl acetate | 580 mg | C(C)(=O)OC1=C(C=CC=C1)C(NC1=CC=C(C=C1)N)=O | C15H14N2O3
reactant | sodium bicarbonate | 2 mL | C([O-])(O)=O.[Na+]
reactant | water | 3 mL | O | H2O
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | N-(4-Aminophenyl)-2-hydroxybenzamide | NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)O)=O | C13H12N2O2
